US05380461
Air in a dried four-necked flask was replaced with nitrogen, and 10 ml of n-hexane and 2.86 g (0.0116 mol) of p-n-propyliodobenzene were introduced. Then, 10 ml of a hexane solution of n-butyl lithium (0.0116 mol) was gradually added thereto under stirring to obtain a hexane solution of n-propylphenyl lithium.

reactant | p-n-propyliodobenzene | 0.0116 mol, 2.86 g | C(CC)C1=CC=C(C=C1)I | C9H11I
reactant | n-butyl lithium | 0.0116 mol | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | n-propylphenyl lithium | C(CC)C1=C(C=CC=C1)[Li] | InChI=1S/C9H11.Li/c1-2-6-9-7-4-3-5-8-9;/h3-5,7H,2,6H2,1H3;
